US08685977B2
4-[4-chloro-3-(trifluoromethyl)phenoxy]-N-(methylsulfonyl)benzamide
To a solution of 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzamide (Preparation 46, 38 g, 120 mmol) in anhydrous THF (200 ml) was added 1.0M lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide solution in THF (301 ml, 301 mmol) at room temperature via syringe. After 30 minutes stirring, methanesulfonyl chloride (34.5 g, 301 mmol) was added to the reaction mixture, and the resulting mixture was stirred for 18 hours at room temperature. The reaction was quenched by addition of saturated aqueous NH4Cl solution. The solvent was reduced in vacuo and the residue was diluted with EtOAc (100 ml) and water (100 ml). The aqueous phase was acidified with 2N aqueous HCl solution and extracted with EtOAc (3×50 ml). The combined organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give an orange solid. The solid was purified by reverse phase column chromatography eluting with acetonitrile:water (plus 0.1% aqueous formic acid) 5:95 to 100:0. The purified material was partitioned between EtOAc (100 ml) and pH2 aqueous HCl solution. The combined organic phase was washed dried over MgSO4, filtered, and concentrated in vacuo to give 32 g of product as a white solid. The solid was recrystallised in IPA to give 24.9 g of the title compound.

reactant | 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzamide | 120 mmol, 38 g | ClC1=C(C=C(OC2=CC=C(C(=O)N)C=C2)C=C1)C(F)(F)F | C14H9ClF3NO2
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 1.0M | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methanesulfonyl chloride | 301 mmol, 34.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 301 mmol, 301 ml | C1CCOC1 | C4H8O
product | 4-[4-chloro-3-(trifluoromethyl)phenoxy]-N-(methylsulfonyl)benzamide | 32 g | ClC1=C(C=C(OC2=CC=C(C(=O)NS(=O)(=O)C)C=C2)C=C1)C(F)(F)F | C15H11ClF3NO4S
